US06897231B2
A. N-{3-(5-Cyano-1-perhydro-2H-pyran-2-yl(1H-indazol-3-yl))phenyl]-3-methoxypropanamide
The title compound was prepared as described in example 222B using 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile (0.300 g, 0.94 mmol) in dichloromethane (10 mL), 3-methoxypropionic acid (0.097 mL, 1.034 mmol), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.216 g, 1.13 mmol). The product was used without chromatographic purification (0.437 g, quantitative yield): ES-MS (m/z) 405 [M+H]+.

reactant | 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 0.94 mmol, 0.300 g | NC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C19H18N4O
reactant | 3-methoxypropionic acid | 1.034 mmol, 0.097 mL | COCCC(=O)O | C4H8O3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.13 mmol, 0.216 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-{3-(5-Cyano-1-perhydro-2H-pyran-2-yl(1H-indazol-3-yl))phenyl]-3-methoxypropanamide | quantitative yield | C(#N)C1CCC(OC1)N1N=C(C2=CC=CC=C12)C=1C=C(C=CC1)NC(CCOC)=O | C23H24N4O3
